2146-02-01 07:32:00 Physician Resident Progress Note
Chief Complaint: s/p fall
   24 Hour Events:
   - Patient tachycardic to the 120's-140's,  hypotensive with sbp's in
   the 70's overnight despite IVF's, but sat
ing well on 4L by NC
   - Patient requiring significant amounts of PO Dilaudid, Ativan, Tylenol
   overnight, refusing other pain medications
   Allergies:
   Nitroglycerin
   Hypotension;
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Diarrhea;
   Hydrochlorothiazide
   hyponatremia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-1**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 116 (92 - 129) bpm
   BP: 64/45(48) {64/41(48) - 103/56(70)} mmHg
   RR: 19 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
             Total In:
                                                                  4,000 mL
                                                                  1,500 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                     40 mL
   Urine:
                                                                    260 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,740 mL
                                                                  1,460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Very thin, anxious woman lying in bed, arm in
   sling, NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, AT
   Cardiovascular: (S1: Normal), (S2: Normal), II/VI systolic murmur heard
   throughout the precordium
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Dopplerable), (Left DP pulse: Dopplerable)
   Respiratory / Chest: Crackles at bases bilaterally
   Abdominal: Soft, Non-tender, Non-distended, Bowel sounds present
   Extremities: Left upper extremity edematous in the shoulder with purple
   ecchymoses, arm in sling. Lower extremities thin, warm, pulses
   dopplerable
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   203 K/uL
   10.2 g/dL
   122 mg/dL
   1.7 mg/dL
   21 mEq/L
   5.1 mEq/L
   37 mg/dL
   110 mEq/L
   145 mEq/L
   31.4 %
   16.5 K/uL
        [image002.jpg]
                             [**2146-1-31**]  05:37 PM
                             [**2146-2-1**]  04:38 AM
   WBC
   14.8
   16.5
   Hct
   33.0
   31.4
   Plt
   220
   203
   Cr
   1.0
   1.7
   TropT
   0.04
   0.30
   Glucose
   104
   122
   Other labs: PT / PTT / INR:12.4/28.6/1.0, CK / CKMB /
   Troponin-T:278/18/0.30, Differential-Neuts:87.8 %, Lymph:7.7 %,
   Mono:4.0 %, Eos:0.2 %, Lactic Acid:2.6 mmol/L, Ca++:8.1 mg/dL, Mg++:1.6
   mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old female with past medical history significant for CAD,
   critical AS, and radiation proctitis presenting after a fall with a
   humeral fracture and hypotension following opiates.
   1) Humeral Fracture s/p fall:  Etiology of fall unclear as it was
   unwitnessed and patient is poor historian, but given extent of AS,
   concern is high for cardiogenic syncope. Patient does not want
   valvuloplasty or surgery so unclear what clear treatments can offer if
   AS is the cause of her syncope, but will continue to optimize
   medically. Orthopedics plans to manage fracture conservatively with
   sling and analgesia.  Greatest difficulty will be managing pain in the
   context of patient's labile blood pressures and sensitivity to
   decreased preload as patient appears to have significant narcotic
   tolerance despite diminutive body habitus.
   - Standing Tylenol 1000mg q6H
   - Lidocaine 5% TD q24H
   - PO Dilaudid 4-8mg q3H:PRN as sbp
s tolerate
   - Echo today
   - Avoid nitro or medications to reduce preload given likely highly
   preload dependent for critical AS
   .
   2) Hypotension: Patient
s blood pressures were initially low in the ED,
   improved with 3L NS & pressors with worsening tachycardia. Pressors
   were then held with sbp
s in the 90
s on arrival to the floor, but
   despite 2.5L NS, sbp
s dropped to 60
s this AM. Patient asymptomatic,
   extremities warm, and low blood pressure are all obtained from the
   right arm while leg pressures have been in the sbp
s 100
s. Undoubtedly
   patient with poor end organ perfusion given low UOP, but as patient is
   asymptomatic, her sbp
s may be better than pressures obtained in the
   right arm indicate. Relative hypotension may be due to adrenergic
   response leading to elevated HR
s, decreased ventricular filling time,
   leading to lower stroke volumes. Given critical AS, it is challenging
   to hydrate patient and optimize preload without overloading patient,
   particularly as patient has bibasilar crackles since early this AM.
   - Pain control to decrease HR and improve LVEDV
   - Fluid replete as tolerates
   - Can consider central line placement in case patient requires
   pressors, but would opt to minimize SVR as this will only impair
   forward flow
   .
   3) Critical AS/LVH: Patient with previous valve area of 0.7cm^2 and has
   symptoms leading to poor prognosis from AS.  She does not want surgery
   and has refused multiple medical options on this admission.  Will
   attempt to minimize workload on ventricle by treating pain, avoiding
   further hypotension, and trying to avoid more hypotension than
   necessary.
   - Hold BB tonight given hypotension but will restart as soon as
   possible for rate control
   - Optimize preload as tolerates with IVF & pain control
   - Revisit possibility of valvuloplasty with patient & family today with
   the help of outpatient PCP
   .
   4) Acute oliguric renal injury: Baseline Cr difficult to assess from
   labs but appears to be around 0.6-0.7.  Likely prerenal in context of
   appearing dry & FeNa < 1%, but has not responded to over 5L NS in the
   past 24 hours likely due to poor forward flow.  UOP < 10 cc/hr. No
   recent antibiotics or other nephrotoxins and no symptoms of UTI with
   benign UA.
   -Trend Cr
   - Avoid nephrotoxins
   - Control pain to decrease HR and improve forward flow
   - Goal UOP >30cc/hr
   .
   5) Elevated CE
s: Patient with elevated CK
s, Troponins, mildly
   elevated MBI in the context of increased demand. Patient without CP,
   SOB and elevation in enzymes likely due to mild ischemia from elevated
   HR and lower ventricular filling volumes.
   - Continue to trend
   - Repeat EKG this AM to ensure now changes
   - Restart Metoprolol as bp
s tolerate
   .
   6) Leukocytosis: Unclear etiology though rapid increase and lack of
   fevers, chills, or other acute changes suggest possibly leukemoid in
   the context of fracture and injury. Lactate 2.6 this AM, but likely due
   to poor end-organ perfusion [**2-22**] tachycardia and severe AS.
   -F/U cultures
   -No empiric abx unless spikes fever or culture positive
   -C diff test (though diarrhea sounds unchanged from baseline)
   .
   7) Anemia: Normocytic, likely hemoconcentrated at presentation with
   decreasing Hct but has stabilized.  No signs of active bleeding.
   -Guaiac stool
   -Trend Cr
   .
   8) CAD: Reported history of CAD but minimal details and no caths in our
   system.  Patient is not on ASA or statin (lipids normal).
   -Continue BB as tolerates
   .
   9) Rhythm: Patient in AF and not anticoagulated. CHADS score 2
   (Hypertension/Age). Unclear why she is not on aspirin though some
   mention of a previous GI bleed.  Will discuss with cardiologist today.
   -Restart Metoprolol 25 mg TID as pressure allows
   -Hold anticoagulation for now
   ICU Care
   Nutrition: S&S consult today out of concern for aspiration
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2146-2-1**] 05:15 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: none
   VAP: none
   Communication:  Patient & patient
s son [**Name (NI) 653**]
   Code status: DNR/DNI
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12599**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2146-2-1**] 15:24 ------

2146-02-02 07:27:00 Physician Resident Progress Note
Chief Complaint: s/p Fall
   24 Hour Events:
   [**2146-2-1**]
   - pm labs show worsening renal function and uptrending CEnzymes
   - met with sons and discussed worsening status, broached the subject of
   percutaneous interventions. Not clear what they will decide. [**Doctor Last Name 7145**]
   offered a balloon valvuplasty but sanguine on expectations
   - Creatinine rose from 1.7 to 2.2 in eight hours
   - Troponin and CK still rising
   - Patient had episode of confusion at [**2066**] - thought she was in her
   bedroom - was easily redirectable
   - HR to 160's at 0300 with BP in low 70's. After 2.5 of metoprolol and
   moving the patient, BP to 80-100. Patient also delirious and worried
   about son. Called son let him talk with patient.
   - started giving Metoprolol 2.5 q2
   - potassium (5.8), cr and INR all rising. Gave kayexalate and CaGluc
   On Rounds
   -          patient somnolent, arousable to sternal rub, though oriented
   with awake briefly
   -          patient could not tolerated flat-supine position (could not
   protect airway)
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 75**] Medical
   [**Name2 (NI) 12622**]rin
   Hypotension;
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Levaquin (Oral) (Levofloxacin)
   Diarrhea;
   Hydrochlorothiazide
   hyponatremia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-1**] 10:00 PM
   Metoprolol - [**2146-2-2**] 06:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough
   Genitourinary: anuric
   Flowsheet Data as of  [**2146-2-2**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 117 (106 - 143) bpm
   BP: 76/60(64) {63/10(21) - 96/69(72)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 40.6 kg (admission): 36.4 kg
             Total In:
                                                                  2,340 mL
                                                                    335 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                  1,590 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                     63 mL
                                                                      9 mL
   Urine:
                                                                     63 mL
                                                                      9 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,277 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin, Anxious, cachectic
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: temporal wasting
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: Systolic), irreg, irreg.
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), dopplerable DP pulses bilaterally
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   at times believes she is at home, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   195 K/uL
   9.6 g/dL
   170 mg/dL
   2.9 mg/dL
   21 mEq/L
   5.4 mEq/L
   49 mg/dL
   106 mEq/L
   140 mEq/L
   29.4 %
   18.6 K/uL
        [image002.jpg]
                             [**2146-1-31**]  05:37 PM
                             [**2146-2-1**]  04:38 AM
                             [**2146-2-1**]  12:59 PM
                             [**2146-2-2**]  04:02 AM
   WBC
   14.8
   16.5
   19.3
   18.6
   Hct
   33.0
   31.4
   29.7
   29.4
   Plt
   220
   203
   219
   195
   Cr
   1.0
   1.7
   2.2
   2.9
   TropT
   0.04
   0.30
   0.37
   Glucose
   104
   122
   154
   170
   Other labs: PT / PTT / INR:17.9/83.6/1.6, CK / CKMB /
   Troponin-T:494/21/0.37, Differential-Neuts:87.8 %, Lymph:7.7 %,
   Mono:4.0 %, Eos:0.2 %, Lactic Acid:2.6 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6
   mg/dL, PO4:6.6 mg/dL
   Imaging: The left atrium is moderately dilated. There is moderate
   symmetric left ventricular hypertrophy. The left ventricular cavity is
   unusually small. Regional left ventricular wall motion is normal.
   Overall left ventricular systolic function is normal (LVEF>55%). The
   aortic valve leaflets are severely thickened/deformed. There is
   critical aortic valve stenosis (valve area <0.8cm2). Trace aortic
   regurgitation is seen. [Due to acoustic shadowing, the severity of
   aortic regurgitation may be significantly UNDERestimated.] The mitral
   valve leaflets are mildly thickened. Moderate (2+) mitral regurgitation
   is seen. The tricuspid valve leaflets are mildly thickened. Moderate to
   severe [3+] tricuspid regurgitation is seen. There is moderate
   pulmonary artery systolic hypertension. The pulmonic valve leaflets are
   thickened. There is no pericardial effusion.
   IMPRESSION: Critical aortic stenosis. Moderate symmetric left
   ventricular hypertrophy with vigorous left ventricular systolic
   function. Moderate mitral regurgitation. Moderate to severe tricuspid
   regurgitation. Moderate pulmonary hypertension.
   Assessment and Plan
   Assessment and Plan
   [**Age over 90 **] year old female with past medical history significant for CAD,
   critical AS, and radiation proctitis presenting after a fall with a
   humeral fracture and hypotension. She is extremely tachycardic without
   sufficient forward flow and is in multiple organ failure . She was
   being considered for aortic valvuloplasty but decompensated briskly. On
   [**2-2**] in the AM she was somnolent and confused. She was made CMO.
   # Critical AS/LVH: Patient with valve area of 0.7cm^2, cavitary
   obliteration, and has symptoms leading to poor prognosis from AS.
   Unclear what patient wants but she and her son seem to be interested in
   a baloon valvuloplasty. This decisions is further supported by her PCP.
   [**Name10 (NameIs) **] procedure is very high risk however the alternative is certainly
   grim.  Her Cardiac enzymes continue to rise indicating increasing
   strain and likely subendocardial ischemia with myonecrosis.  Attempts
   to optimize preload as tolerates with BB & pain control were
   insufficient. She was unable to tolerate laying flat (unable to protect
   airway).
   - if no valvuloplasty, expect liver/kidney/respiratory failure and
   start morphine drip as needed
   .
   #) Hypotension: Patient
s blood pressures were initially low in the ED,
   improved transiently with 5L NS & pressors c/b worsening tachycardia.
   Systolic pressures have ranged from 60's to 90's:  Patient
   asymptomatic, extremities warm, and low blood pressure are all obtained
   from the right arm while leg pressures have been in the sbp
s 100
   Patient's pressures are insufficient to perfuse kidneys (anuric) and
   liver (rising INR). Relative hypotension may be due to adrenergic
   response leading to elevated HR
s, decreased ventricular filling time,
   leading to lower stroke volumes. Given critical AS, it is challenging
   to hydrate patient and optimize preload without overloading patient,
   particularly as patient has worsening bibasilar crackles.
   - IV Metoprolol 2.5 q2 hrs for rate control until Son arrives
   - [**Name2 (NI) 2076**] control to decrease HR and improve LVEDV
   #) Tachycardia: Rate is severely limiting the CO. Patient in chronic AF
   and not anticoagulated (hx of GI bleed). CHADS score 2
   (Hypertension/Age).
   - rate control as above
   #) Acute oliguric renal injury: Baseline Cr difficult to assess from
   labs but appears to be around 0.6-0.7.  Likely prerenal in context of
   appearing dry & FeNa < 1%, but has not responded to over 5L NS in the
   past 24 hours likely due to poor forward flow.  UOP < 3 cc/hr. Cr
   climbing steadily, Potassium climbing. Her renal failure is likely
   terminal.
   - Comfort Care
   .
   #) Acute Liver Failure: Patient arrived with INR of 1.0 and within 24
   hours, it is 1.6. This is partially responsible but likely reflects
   significant liver injury due to hypoperfusion. This is a negative
   prognostic sign
   - likely progressive
   .
   #) Humeral Fracture s/p fall:  Etiology of fall unclear as it was
   unwitnessed and patient is poor historian, but given extent of AS,
   concern is high for cardiogenic syncope. Patient does not want
   valvuloplasty or surgery so unclear what clear treatments can offer if
   AS is the cause of her syncope, but will continue to optimize
   medically. Orthopedics plans to manage fracture conservatively with
   sling and analgesia.
   - Standing Tylenol 1000mg q6H
   - Lidocaine 5% TD q24H
   - PO Dilaudid 4-8mg q3H:PRN as sbp
s tolerate
   #) Leukocytosis: Unclear etiology though rapid increase and lack of
   fevers, chills, or other acute changes suggest possibly leukemoid in
   the context of fracture and injury. Lactate 2.6 this AM, but likely due
   to poor end-organ perfusion [**2-22**] tachycardia and severe AS.
   #) Anemia: Normocytic, likely hemoconcentrated at presentation with
   decreasing Hct but has stabilized.  No signs of active bleeding.
   .
   #) CAD: Reported history of CAD but minimal details and no caths in our
   system.  Patient is not on ASA or statin (lipids normal).
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-2-1**] 05:15 AM
   Prophylaxis:
   DVT:  sq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition: ccu
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2146-2-4**] 14:51 ------